US07790728B2
6-(2-Furyl)-5-[2-(methylthio)pyrimidin-4-yl]pyrazin-2-amine
A microwave oven reactor was charged with 5-bromo-6-furan-2-ylpyrazin-2-ylamine (Preparation 2, 220 mg, 0.91 mmol), 2-methylsulfanyl-4-trimethylstannanylpyrimidine* (500 mg, 1.74 mmol), bis-(triphenylphosphin)palladium (II) chloride (60 mg, 0.08 mmol) and dimethylformamide (2.5 mL). The mixture was heated at 150° C. for 10 min in the microwave oven, then cooled, partitioned between water and ethyl acetate, the aqueous phase extracted twice with ethyl acetate, the organic layers washed with brine, dried (MgSO4) and evaporated. Flash chromatography (dichloromethane to dichloromethane/methanol 95:5) gave the title compound as a yellowish solid (123 mg, 47%). *Prepared according to Sandosham J.; Undheim, K. Tetrahedron 1994, 50 (1), 275-284.

reactant | 5-bromo-6-furan-2-ylpyrazin-2-ylamine | 0.91 mmol, 220 mg | BrC=1N=CC(=NC1C=1OC=CC1)N | C8H6BrN3O
reactant | 2-methylsulfanyl-4-trimethylstannanylpyrimidine | CSC1=NC=CC(=N1)[Sn](C)(C)C
catalyst | bis-(triphenylphosphin)palladium (II) chloride | 0.08 mmol, 60 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
solvent | dimethylformamide | 2.5 mL | CN(C=O)C | C3H7NO
product | 6-(2-Furyl)-5-[2-(methylthio)pyrimidin-4-yl]pyrazin-2-amine | 123 mg, 47% | O1C(=CC=C1)C1=C(N=CC(=N1)N)C1=NC(=NC=C1)SC | C13H11N5OS
